US05462954
2-Methyl-2-cyano-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane
A solution of 1.5 g of 2-methyl-2-cyano-7-(2-ethyl-4-bromo-5-benzyloxyphenoxy)heptane and 0.5 g of tetrakis(triphenylphosphine)palladium(0) in 70 mL of benzene was stirred with 15 mL of 2.0M sodium carbonate. A solution of 1.1 g of 4-fluorophenyl boronic acid in 15 mL of ethanol was added. The mixture was heated at reflux for 16 hours. The mixture was cooled and diluted with ethyl acetate. The organic phase was washed with saturated ammonium chloride, washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with hexane/ethyl ether to provide 1.44 g (93%) of the desired title intermediate. NMR.

reactant | 2-methyl-2-cyano-7-(2-ethyl-4-bromo-5-benzyloxyphenoxy)heptane | 1.5 g | CC(C)(CCCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)CC)C#N | C24H30BrNO2
reactant | sodium carbonate | 2.0M, 15 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenyl boronic acid | 1.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methyl-2-cyano-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane | 1.44 g, 93% | CC(C)(CCCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)C#N | C30H34FNO2
